US06613942B1
Methyl 4-Formylnaphthoate:
To a solution of methyl 4-hydroxymethylnaphthoate above (3.3, 15.3 mmol) in dichloromethane (20 mL) was added MnO2 (6.6 g, 76 mmol). After stirring the dark mixture for 16 hours, the insolubles were filtered through a bed of Celite. Evaporation of the solvent gave the desired product as a white solid in quantitative yield.

reactant | methyl 4-hydroxymethylnaphthoate | OCC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H12O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 76 mmol, 6.6 g | O=[Mn]=O
product | Methyl 4-Formylnaphthoate | quantitative yield | C(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H10O3
